US08071603B2
Synthesis of 4-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-benzonitrile
To a mixture of 4-piperazin-1-ylbenzonitrile hydrochloride (0.200 g, 0.890 mmol) in dichloromethane (15 mL) and triethylamine (0.452 g, 4.47 mmol) was added 2-trifluoromethylbenzoyl chloride (0.186 g, 0.890 mmol) at 0° C. The reaction mixture was warmed up to ambient temperature and stirred for 6 hours, then diluted with water, and extracted with dichloromethane. The organic phase was separated, washed with diluted HCl solution, sodium bicarbonate solution, brine, then dried over anhydrous MgSO4 and concentrated. The residue was purified by column chromatography and crystallization from n-hexane and the title compound was obtained as a white solid in 91% yield (0.294 g). 1H NMR (300 MHz, CDCl3) δ 7.72 (d, J=8.9 Hz, 1H), 7.54 (m, 4H), 7.36 (m, 1H), 6.84 (d, J=9.6 Hz, 2H), 3.94 (m, 2H), 3.33 (m, 6H). 13C NMR (75 MHz, CDCl3) δ 167.5, 153.0, 134.3, 133.6, 132.4, 129.5, 127.6, 127.2, 125.4, 121.8, 119.7, 114.9, 101.5, 47.3, 46.4, 41.2. MS (ES+) m/z 360.1 (M+1).

reactant | 4-piperazin-1-ylbenzonitrile hydrochloride | 0.890 mmol, 0.200 g | Cl.N1(CCNCC1)C1=CC=C(C#N)C=C1
reactant | triethylamine | 4.47 mmol, 0.452 g | C(C)N(CC)CC | C6H15N
reactant | 2-trifluoromethylbenzoyl chloride | 0.890 mmol, 0.186 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-benzonitrile | 91% yield | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(C#N)C=C2)C=CC=C1)(F)F | C19H16F3N3O
